US08009267B2
Synthesis of acenaphtho[1,2-b]quinoxaline
To a reaction vessel equipped with a stirrer, 5-liter of glacial acetic acid and 490 g of purified acenaphthenequinone were added and stirred for 15 minutes under nitrogen bubbling to obtain an acenathphenequinone solution. Similarly, to another reaction vessel equipped with a stirrer, 7.5-liter of glacial acetic acid and 275 g of o-phenylenediamine were added and stirred for 15 minutes under nitrogen bubbling to obtain an o-phenylenediamine solution. Thereafter, while stirring under nitrogen atmosphere, the o-phenylenediamine solution was added to the acenaphthenequinone solution gradually over one hour, and then allowed to react by continuing to stir for 3 hours. After ion exchange water was added to the obtained reaction liquid, the precipitate was filtrated to obtain a crude product. This crude product was recrystallized with a heated glacial acetic acid for purification.

reactant | o-phenylenediamine | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | acenaphthenequinone | C1(C(C2=CC=CC3=CC=CC1=C23)=O)=O | C12H6O2
solvent | water | O | H2O
product | acenaphtho[1,2-b]quinoxaline | C1=CC=C2C=CC=C3C2=C1C1=NC2=CC=CC=C2N=C13 | C18H10N2
